US06399641B1
N-(2-Difluoromethyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 143-145° and MS: (neg. ions): m/e=328.1 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-difluoromethyl-2H-tetrazole and diphenylacetyl chloride.

reactant | 5-amino-2-difluoromethyl-2H-tetrazole | NC=1N=NN(N1)C(F)F | C2H3F2N5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(2-Difluoromethyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide | FC(N1N=C(N=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)F | C16H13F2N5O
